US05151518
Synthesis of N-phenyl Isatin
Isatin (25 mg from Aldrich, Milwaukee, Wisconsin) was placed in a 25 ml round bottom flask under a nitrogen atmosphere. Triphenyl bismuth diacetate (300 mq) from Example 1 and freshly distilled methylene chloride (from P2O5 ; 10 ml) was then added, maintaining the nitrogen atmosphere. Copper powder (3 mg) was then added. The reaction mixture was then stirred at reflux for four hours. An additional portion of triphenyl bismuth diacetate (95 mg) was added, and the mixture was refluxed for twelve hours more. The desired product, N-phenyl isatin (42.1 mg) was obtained and purified on a 2 mm silica prep plate (ANALTECH UNIPLATE Silica Gel GF. 1:1 hexane/ethyl acetate).

reactant | Isatin | 25 mg | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | Triphenyl bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triphenyl bismuth diacetate | 95 mg | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
catalyst | Copper | 3 mg | [Cu] | Cu
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl isatin | 42.1 mg | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C14H9NO2
